US09126948B2
Step 3. 1-{5-chloro-2-methoxy-4-methyl-3-[5-(methylsulfonyl)pyridin-3-yl]phenyl}ethanone
Into a microwave vial was added 1-(3-bromo-5-chloro-2-methoxy-4-methylphenyl)ethanone (0.040 g, 0.14 mmol), [5-(methylsulfonyl)pyridin-3-yl]boronic acid (0.035 g, 0.17 mmol), 1.0 M sodium carbonate (0.35 mL, 0.35 mmol), 1,4-dioxane (0.87 mL) and tetrakis(triphenylphosphine)palladium(0) (0.010 g, 0.0086 mmol). The mixture was bubbled with N2 for 5 min, then heated at 100° C. overnight. The cooled reaction mixture was purified on silica gel to give the desired product (0.035 g, 71%). LCMS calculated for C16H17ClNO4S (M+H)+: m/z=354.1. found: 354.0.

reactant | 1-(3-bromo-5-chloro-2-methoxy-4-methylphenyl)ethanone | 0.14 mmol, 0.040 g | BrC=1C(=C(C=C(C1C)Cl)C(C)=O)OC | C10H10BrClO2
reactant | [5-(methylsulfonyl)pyridin-3-yl]boronic acid | 0.17 mmol, 0.035 g | CS(=O)(=O)C=1C=C(C=NC1)B(O)O | C6H8BNO4S
reactant | sodium carbonate | 0.35 mmol, 1.0 M, 0.35 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0086 mmol, 0.010 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 0.87 mL | O1CCOCC1 | C4H8O2
product | 1-{5-chloro-2-methoxy-4-methyl-3-[5-(methylsulfonyl)pyridin-3-yl]phenyl}ethanone | 0.035 g, 71% | ClC=1C(=C(C(=C(C1)C(C)=O)OC)C=1C=NC=C(C1)S(=O)(=O)C)C | C16H16ClNO4S
